US08648202B2
12.27 g (70.2 mmol, 1 eq.) of 1-bromo-3-fluorobenzene and 44.7 g (210.5 mmol, 3 eq.) of K3PO4 are added to a solution of 12.83 g (105.3 mmol, 1.5 eq.) of phenylboronic acid in 200 ml of isopropanol. The mixture is stirred at room temperature for 4 hours. 0.0021 g (14.8 μmol, 0.0021 mol %) of [{Pd[P(C2F5)2O]2H}2(μ-Cl)2], prepared in accordance with Example 13, is subsequently added, and the reaction mixture is stirred at room temperature for 20 hours, giving 3-fluorobiphenyl quantitatively.

reactant | 1-bromo-3-fluorobenzene | 70.2 mmol, 12.27 g, 1 eq. | BrC1=CC(=CC=C1)F | C6H4BrF
reactant | K3PO4 | 210.5 mmol, 44.7 g, 3 eq. | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | phenylboronic acid | 105.3 mmol, 12.83 g, 1.5 eq. | C1(=CC=CC=C1)B(O)O | C6H7BO2
solvent | isopropanol | 200 ml | C(C)(C)O | C3H8O
product | 3-fluorobiphenyl | FC=1C=C(C=CC1)C1=CC=CC=C1 | C12H9F
